US08071625B2
To a solution of N-(2-chlorobenzyl)-4-hydroxy-2,2-dimethylbutanamide (400 mg, 1.6 mmol) in THF (25 mL) were added 4-ethylphenylisocyanate (276 μL, 1.92 mmol, 1.2 equiv.) and DMAP (293 mg, 2.4 mmol, 1.5 equiv.). The reaction mixture was stirred overnight. The reaction mixture was concentrated. The resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O, and further purified by flash column chromatography using a mixture of hexanes and EtOAc to give 4-(2-chlorobenzylamino)-3,3-dimethyl-4-oxobutyl 4-ethylphenylcarbamate (160 mg, 25%). LRMS (M+H+) m/z 403.1.

reactant | N-(2-chlorobenzyl)-4-hydroxy-2,2-dimethylbutanamide | 1.6 mmol, 400 mg | ClC1=C(CNC(C(CCO)(C)C)=O)C=CC=C1 | C13H18ClNO2
reactant | 4-ethylphenylisocyanate | 1.92 mmol, 276 μL, 1.2 equiv. | C(C)C1=CC=C(C=C1)N=C=O | C9H9NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 2.4 mmol, 293 mg, 1.5 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(2-chlorobenzylamino)-3,3-dimethyl-4-oxobutyl 4-ethylphenylcarbamate | 160 mg, 25% | C(C)C1=CC=C(C=C1)NC(OCCC(C(=O)NCC1=C(C=CC=C1)Cl)(C)C)=O | C22H27ClN2O3
